US08633186B2
1H-pyrido[2,3-c][1,2,6]thiadiazin-4-amine-2,2-dioxide
A stirred mixture of 2-aminonicotinonitrile (238 mg, 2.0 mmol), sulfamide (192 mg, 2.0 mmol), and 1 mL of DBU was heated at 160° C. under nitrogen overnight. After it was cooled down to room temperature, the reaction mixture was diluted with water, and extracted three times with EtOAc. The aqueous layer was dried down under vacuum, and the residue was purified by chromatography on silica gel eluting with 15% MeOH in dichloromethane to give the title compound as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 6.87 (t, J=5.6 Hz, 1H), 7.95 (brs, 2H), 8.22 (d, J=5.2 Hz, 1H), 8.39-8.37 (m, 1H), 12.58 (brs, 1H). MS 199 (MH+).

reactant | 2-aminonicotinonitrile | 2.0 mmol, 238 mg | NC1=C(C#N)C=CC=N1 | C6H5N3
reactant | sulfamide | 2.0 mmol, 192 mg | S(=O)(=O)(N)N | H4N2O2S
reactant | DBU | 1 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | water | O | H2O
product | 1H-pyrido[2,3-c][1,2,6]thiadiazin-4-amine-2,2-dioxide | N1S(N=C(C2=C1N=CC=C2)N)(=O)=O | C6H6N4O2S
